US08026234B2
Compound 53: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-(dimethylamino)ethyl)-3-methoxybenzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and N,N-dimethylethylenediamine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.13-1.27 (m, 2H) 1.27-1.51 (m, 2H) 1.51-1.86 (m, 6H) 2.17 (s, 6H) 2.39 (t, J=7.8 Hz, 2H) 3.31 (s, 3H) 3.38 (m, 2H) 3.93 (s, 3H) 4.06 (t, J=13.39 Hz, 2H) 4.46 (m, 1H) 7.48 (d, J=8.0 Hz, 1H) 7.52 (s, 1H) 7.91 (s, 1H) 8.21 (s, 1H) 8.28 (d, J=8.34 Hz, 1H) 8.35 (br. s., 1H). [M+H] calculated for C26H35F2N7O3, 532. found 532.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(2-(dimethylamino)ethyl)-3-methoxybenzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCN(C)C)C=C2)OC | C26H35F2N7O3
